US07985763B2
To a solution of 4-[5-(4-chloro-phenoxy)-pentyloxy]-1H-indole (1.72 g, 5.2 mmol) in 20 mL acetic acid was added sodium cyanoborohydride (2.61 g, 41.6 mmol). After stirred overnight at room temperature, the reaction mixture was treated with saturated aqueous sodium bicarbonate solution (50 mL). The solution was then extracted with ethyl acetate (3×50 mL), and the combined organic phases were washed with brine, dried over MgSO4, and concentrated to give a crude product as a white solid. The crude product was purified by silica gel column chromatography to give 4-[5-(4-chloro-phenoxy)-pentyloxy]-2,3-dihydro-1H-indole (600 mg, 1.80 mmol, 35%) as a white solid.

reactant | 4-[5-(4-chloro-phenoxy)-pentyloxy]-1H-indole | 5.2 mmol, 1.72 g | ClC1=CC=C(OCCCCCOC2=C3C=CNC3=CC=C2)C=C1 | C19H20ClNO2
reactant | sodium cyanoborohydride | 41.6 mmol, 2.61 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-[5-(4-chloro-phenoxy)-pentyloxy]-2,3-dihydro-1H-indole | 1.80 mmol, 600 mg, 35% | ClC1=CC=C(OCCCCCOC2=C3CCNC3=CC=C2)C=C1 | C19H22ClNO2
